US07960395B2
a) N-(Ethoxycarbonyl)-D-norvaline
D-Norvaline (10.0 g, 85.3 mmol) was dissolved in aqueous sodium hydroxide (4M, 25 mL). Ethyl chloroformate (10.6 mL, 111 mmol) and aqueous sodium hydroxide (4M, 25 mL) was added over 15 min. at 0° C. The reaction mixture was warmed to room temperature and stirred at this temperature for 4 h. The reaction mixture was washed with diethyl ether three times and then acidified with aqueous hydrochloric acid (2M). The product was extracted with diethyl ether three times. The combined organic phases were dried over magnesium sulphate and concentrated in vacuo to yield the title compound in quantitative yield.

reactant | D-Norvaline | 85.3 mmol, 10.0 g | N[C@H](CCC)C(=O)O | C5H11NO2
reactant | Ethyl chloroformate | 111 mmol, 10.6 mL | ClC(=O)OCC | C3H5ClO2
solvent | sodium hydroxide | 4M, 25 mL | [OH-].[Na+]
solvent | sodium hydroxide | 4M, 25 mL | [OH-].[Na+]
product | N-(Ethoxycarbonyl)-D-norvaline | quantitative yield | C(C)OC(=O)N[C@H](CCC)C(=O)O | C8H15NO4
